US03991087
By following the hydrolytic procedure described in Example 1, Step D, but substituting an equimolar amount of ethyl 8-acetyl-8-methyl-12-acetoxyheptadecanoate for the ethyl 8-acetyl-12-acetoxyheptadecanoate of the example, there is obtained 8-acetyl-8-methyl-12-hydroxyheptadecanoic acid as a colorless viscous oil.

reactant | ethyl 8-acetyl-8-methyl-12-acetoxyheptadecanoate | C(C)(=O)C(CCCCCCC(=O)OCC)(CCCC(CCCCC)OC(C)=O)C | C24H44O5
reactant | ethyl 8-acetyl-12-acetoxyheptadecanoate | C(C)(=O)C(CCCCCCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C23H42O5
product | 8-acetyl-8-methyl-12-hydroxyheptadecanoic acid | C(C)(=O)C(CCCCCCC(=O)O)(CCCC(CCCCC)O)C | C20H38O4
